Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Slurred speech, ?Aphasia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year-old right-handed ___ man
(although speaks proficient ___ with a history of HTN and
prior stroke in ___ who is transfered from ___ with
elevated troponins and an event of aphasia and slurred speech. 
Neurology is consulted in the ED for further management.  
History
is obtained from the patient and his daughter who is at the
bedside and witnessed at least part of today's event.

Last night, the patient had a brief episode of chest pain 
without
SOB or other concerning symptoms.  This am, he had a mild
occipital headache that resolved with tylenol. Otherwise, he was
asymptomatic and language was last seen normal at 830am by his
wife. (Although patient tells me that his wife always thinks his
speech is a bit slurred). His wife left for a doctor's
appointment and she called home at 11:30am and his speech was
reportedly at baseline.  Later at 1:30pm, his wife called waking
the patient out of sleep.  She asked for measurements of the
curtains so the patient, jumped up to grab a ruler.  Afterwards,
the patient was trying to say the word "bedroom" in ___, but
this came out in a neologism in a mix of ___ and ___.  
He
then perseverated on this neologism while on the phone for a few
minutes.  He says he could understand what his wife was saying,
although its hard to know if there was a comprehension deficit
based on his account.  He tells me there was no weakness,
numbness, vision changes, but there was no one at home with him
to verify.  **Of note, the patient's account of this episode 
does
not highlight the neologisms as does his daughter, who also her
her father on the phone.**

His wife and daughter arrived home within 15 minutes of this
conversation and found him lying in bed.  He was no longer
perseverating on that neologism, but had slurred speech.  He was
agitated and confused and was vehemently protesting going to the
hospital.  His daughter says that he clearly understood them at
that point and was speaking in sentences, but just had slurred
speech output.  There were no other deficits noted by the 
family.
He did not have chest pain or SOB at that time.  

He was initially brought to ___ where initial vitals 
were
BP 214/102, HR 54, POX 98.  Lab work at ___ revealed 
elevated
troponin at 0.164.  ___ was negative.        

Of note, over the past couple of weeks, the family has been more
concerned that the patient has been more imbalanced.  He had one
mechanical fall on the stairs recently. There was no head 
strike.

See below, for description of his prior stroke.  

ROS: positive as above.  No loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, or dysphagia.
Denies focal muscle weakness, numbness, parasthesia. Denies loss
of sensation. Denies bowel or bladder incontinence or retention.
The patient denies fevers, rigors, night sweats, or noticeable
weight loss. Denies palpitations, dyspnea, or cough. Denies
nausea, vomiting, diarrhea, constipation, or abdominal pain.  No
recent change in bowel or bladder habits.  Denies dysuria or
hematuria. Denies myalgias, arthralgias, or rash.

 
Past Medical History:
- HTN 
- Stroke in ___.  He presented to a ___ hospital with
left-sided hemiparesis (face/arm/leg) and was told "he had a
stroke from a bleeding vessel and a clot." He was placed on
plavix and aspirin after discharge.  He continued to have
left-sided weakness for months, and recently only has trace left
sided weakness and numbness.  No current neurologist. Although
his PCP note in our system says hemorrhagic stroke, this remains
unclear based on his description. 
- Obesity
- ? CKD - Cr from ___ in our system is 1.3, but that is an
isolated value

 
Social History:
___
Family History:
Parents with CAD and MIs.

 
Physical Exam:
EXAM ON ADMISSION
Vitals: 97.6 52 194/101 16 97% RA 
General:  NAD, obese man
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
Awake, alert, oriented to person, place and mostly to time (says
___ instead of ___. Able to relate history without 
difficulty.
Attentive, able to name ___ backward without difficulty. Speech
is fluent with full sentences, intact repetition, and intact
verbal comprehension. Naming intact.  No paraphasias.  No
dysarthria. Normal prosody. No apraxia. No evidence of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggle.
EOMI, no nystagmus. V1-V3 with subtle discrepancy of right and
left sides, he says left is 99% of what is felt on right to pin
and light touch.  Hearing intact to finger rub bilaterally. 
Palate elevation symmetric. SCM/Trapezius strength ___
bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    4+ 5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - To light touch and pin, left hemibody is felt as 99%
of what is on the right.  No exinction to DSS.

-DTRs:
  Bi  Tri ___ Pat Ach
L  2+  2    2+   3   2
R  2+  2    2+   3   2
Plantar response flexor bilaterally.

- Coordination - Mild intention tremor with FNF on left, but no
past pointing or dysmetria.  Toe to target is normal 
bilaterally.
Mirror task without overshoot.  ? slight left > right rebound.  
Good speed and intact cadence with rapid alternating movements 
on
right and slow on left. 

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Negative Romberg.

  
EXAM ON DISCHARGE
97.5F 164-192/84-100  HR 50-67, RR 18, 95% on RA  FSG 92-130
Mental Status - Alert and oriented x3. Able to repeat what he 
was told about his plan. 
Cranial Nerves - EOMI, VFF, Possible slower activation on the 
left with smile
Motor - Full strength in UE and ___ both distally and proximally
No protonator drift
Coordination - Slower finger tap on the left. Pt is right 
handed. 

 
Pertinent Results:
PERTINENT LABS
___ 05:15AM BLOOD WBC-8.6 RBC-4.32* Hgb-13.4* Hct-39.7* 
MCV-92 MCH-31.0 MCHC-33.8 RDW-13.6 RDWSD-46.0 Plt ___
___ 05:20PM BLOOD Neuts-63.7 ___ Monos-6.8 Eos-2.2 
Baso-0.1 Im ___ AbsNeut-5.50 AbsLymp-2.31 AbsMono-0.59 
AbsEos-0.19 AbsBaso-0.01
___ 05:15AM BLOOD Plt ___
___ 05:20PM BLOOD ___ PTT-40.3* ___
___ 05:15AM BLOOD Glucose-110* UreaN-20 Creat-1.3* Na-141 
K-3.9 Cl-105 HCO3-28 AnGap-12
___ 05:20PM BLOOD ALT-14 AST-19 CK(CPK)-81 AlkPhos-101 
TotBili-0.4
___ 05:20PM BLOOD cTropnT-0.14*
___ 09:15PM BLOOD cTropnT-0.12*
___ 05:15AM BLOOD CK-MB-3 cTropnT-0.12*
___ 05:15AM BLOOD Calcium-8.5 Phos-3.5 Mg-2.1 Cholest-197
___ 05:15AM BLOOD %HbA1c-5.7 eAG-117
___ 05:15AM BLOOD Triglyc-151* HDL-38 CHOL/HD-5.2 
LDLcalc-129
___ 05:15AM BLOOD TSH-4.9*
___ 05:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
   
IMAGING/STUDIES
___ ___
No acute hemorrhage. No
evidence for acute major vascular territorial infarction. Axial
images demonstrate a hypodensity in the posterior left temporal
lobe (2:9), but thin axial "volume" images and coronal reformats
confirm that this is secondary to diffuse artifacts on this 
axial
image.
  
___ CXR
There is enlargement of the cardiac silhouette with
tortuosity of the aorta.  However, no evidence of acute
pneumonia, vascular congestion, or pleural effusion.
  
___ AND CTA HEAD AND NECK
 
1. Patent circle of ___. 
2. No evidence of internal carotid artery stenosis by NASCET 
criteria. 
3. No CT evidence for acute infarct or intracranial hemorrhage. 
    
___ CTA CHEST
1. Motion limited study. Within the limitations
of this study, there is no evidence of pulmonary embolism to the
segmental levels. 2. No acute aortic pathology. 3. Mild
peribronchial wall thickening, may be infectious or 
inflammatory. 4. 4 mm left upper lobe pulmonary nodule. 
  
RECOMMENDATION(S):  In the case of nodule size <= 4 mm: No 
follow-up needed in 
low-risk patients. For high risk patients, recommend follow-up 
at 12 months 
and if no change, no further imaging needed. 
  
EKG
Sinus bradycardia. P-R interval prolongation. Left anterior 
fascicular block. 
Right bundle-branch block. Mild Q-T interval prolongation. No 
previous 
tracing available for comparison.  
  
___ MRI BRAIN
1. Small focus of acute right frontal lobe infarction. 
2. Innumerable chronic microhemorrhages in a pattern suggestive 
of  hypertensive micro hemorrhages given the degree of basal 
ganglia, pontine and cerebellar hemisphere involvement.  
However, there are also innumerable subcortical cerebral 
hemispheric peripherally distributed micro hemorrhages which may 
could represent a superimposed component of amyloid angiopathy. 
  
___ ECHOCARDIOGRAM
The left atrium is mildly dilated. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast with maneuvers. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The aortic root is 
mildly dilated at the sinus level. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. Mild (1+) aortic regurgitation 
is seen. The aortic regurgitation jet is eccentric, directed 
toward the anterior mitral leaflet. The mitral valve leaflets 
are structurally normal. Mild (1+) mitral regurgitation is seen. 
There is borderline pulmonary artery systolic hypertension. 
There is no pericardial effusion. 
  
IMPRESSION: No intracardiac source of thromboembolism 
identified. Mild symmetric left ventricular hypertrophy with 
preserved biventricular systolic funciton. Mildly dilated aortic 
root and ascending aorta. Mild mitral regurgitation. Borderline 
pulmonary artery systolic hypertension.
  
The patient has a mildly dilated ascending aorta. Based on ___ 
ACCF/AHA Thoracic Aortic Guidelines, if not previously known or 
a change, a follow-up echocardiogram is suggested in ___ year; if 
previously known and stable, a follow-up echocardiogram is 
suggested in ___ years.  
 
Brief Hospital Course:
___ right handed male with history of HTN, prior stroke in ___ 
with residual left sided sensory changes and mild weakness who 
presents with transient episode of chest pain, slurred speech 
and possible aphasia lasting around 30 minutes. Patient was 
asymptomatic during admission to the hospital with no recurrence 
of symptoms. 
    
# Acute ischemic strokes with transient slurred speech and 
possible aphasia. 
MRI showed two punctate spots of restricted diffusion in R 
frontal lobe that curiously did not correspond to his symptoms. 
Given the appearance, they were most likely due to small vessel 
disease. His MRI also showed an innumerable number of 
microbleeds, more in the basal ganglia, cerebellum, and pons 
which increased likelihood of hypertensive etiology. However, he 
also had multiple bleeds in other cortical areas that could 
indicate superimposed amyloid angiopathy. Non-con head CT on 
admission was negative for acute bleed - therefore, hemorrhage 
was not the etiology for his symptoms. CTA head and neck was 
negative for significant vessel disease, however, there was some 
narrowing of left vertebral artery likely consistent with 
atherosclerosis. 
Echocardiogram showed no ASD/PFO or intracardiac source of 
thrombus. However he did have some LVH and mild Pulmonary HTN, 
please see above for full report. Regarding his stroke risk 
factors, his LDL 129, A1C 5.7. He was started on Atorvastatin 
40mg daily and continued on aspirin 81mg daily. We did consider 
the risk of bleeding from his numerous microbleeds with use of 
aspirin. However, he did have multiple small ischemic strokes on 
his admission and we thought that focus on blood pressure 
control would be the most effective to prevent future bleeds. He 
was set up with outpatient neurology follow up. 
  
# Hypertension
Mr. ___ did have significantly elevated BP's while an 
inpatient ranging from 170-200s systolic. This was initially 
tolerated for permissive HTN but BP medications were escalated 
to Amlodipine 5mg daily from 2.5mg daily and atenolol increased 
from 25mg daily to 50mg daily for improvement in BP prior to 
discharge. His blood pressure will need to be followed closely 
as an outpatient as it will be the best prevention of future  
microbleeds. 
  
# Demand ischemia
He did initially have chest pain on presentation but this 
resolved quickly prior to transfer to the floor. He did have CTA 
Chest that was negative for PE. EKG did not show acute ischemia 
but did show RBBB and LAFB without any prior for comparison. 
Telemetry during admission showed sinus rhythm. His trop at the 
OHS was 0.16 and downtrended to 0.12 during this admission. He 
was evaluated by cardiology who felt that his troponin elevation 
was most likely due to demand ischemia in the setting of 
hypertension with SBP in ___ on admission. However, his 
troponin elevation is also likely representative of underlying 
Coronary Artery Disease and he will need outpatient evaluation. 
  
# Mild ___ vs CKD - Cr 1.4 on admission with prior value at 1.3. 
It improved to 1.2 at the time of discharge after 1L NS post 
contrast. 
  
# Anxiety/Depression - Stable and continued on his home 
Escitalopram - an Rx was provided on discharge. Patient 
currently going through many social stressors including the fact 
that his wife has been diagnosed with cancer and currently 
undergoing chemotherapy. This will likely need outpt follow up. 
  
  
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - bedside swallow by RN ___ () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 129 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Amlodipine 2.5 mg PO DAILY 
3. Escitalopram Oxalate 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*0
3. Atenolol 50 mg PO DAILY 
RX *atenolol 50 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*0
4. Escitalopram Oxalate 10 mg PO DAILY 
RX *escitalopram oxalate 10 mg 1 tablet(s) by mouth DAILY Disp 
#*30 Tablet Refills:*0
5. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.) Ischemic strokes in right middle cerebral artery territory. 
Likely small vessel disease
2.) Hypertensive cerebral microhemorrhages 
3.) Demand-related coronary ischemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted because of concern for stroke affecting your 
speech. You were found to have two small strokes on the right 
side of your brain and signs of multiple small bleeds in your 
brain in the past that were most likely caused by high blood 
pressure. Your blood pressure was high while you were in the 
hospital. Therefore, we have increased some of your blood 
pressure medications. However, you will have to follow up with 
your primary care provider in order to follow this as an 
outpatient. Your atenolol was increased from 25mg daily to 50mg 
daily. Your amlodipine was increased from 2.5mg daily to 5mg 
daily. 

We also started aspirin 81mg daily and atorvastatin 40mg daily 
(for your high cholesterol) in order to prevent future strokes. 

You were also found to have some signs of heart muscle damage in 
your blood on admission likely concerning for coronary artery 
disease. Please follow up with your primary care doctor as you 
may need a stress test in the future to assess blood supply to 
your heart. The aspirin and cholesterol medication will also 
help with heart disease. 
 
Followup Instructions:
___